US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-{5-(triethylsilyloxy)-5-methylhexylthiomethyl}androsta-5,7,16-triene
17-Acetylthiomethyl-1α,3β-bis(tert-butyldimethylsilyloxy)androsta-5,7,16-triene (262 mg, 0.434 mmol), 1-bromo-5-triethylsilyloxy-5-methylhexane (266 mg, 0.860 mmol), a 1M potassium hydroxide methanol solution (3 ml) and tetrahydrofuran (2 ml) were subjected to reaction using a procedure similar to that of Example 31(1) (3 hours at room temperature), worked up and purified by column chromatography (hexane:toluene=4:1) to give the titled compound (320 mg, 93%) as a colorless oil.

reactant | 17-Acetylthiomethyl-1α,3β-bis(tert-butyldimethylsilyloxy)androsta-5,7,16-triene | 0.434 mmol, 262 mg | C(C)(=O)SCC=1[C@]2(C)[C@@H](CC1)C1=CC=C3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C34H58O3SSi2
reactant | 1-bromo-5-triethylsilyloxy-5-methylhexane | 0.860 mmol, 266 mg | BrCCCCC(C)(C)O[Si](CC)(CC)CC | C13H29BrOSi
reactant | potassium hydroxide methanol | 1M, 3 ml | CO.[OH-].[K+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-{5-(triethylsilyloxy)-5-methylhexylthiomethyl}androsta-5,7,16-triene | 320 mg, 93% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CSCCCCC(C)(C)O[Si](CC)(CC)CC)O[Si](C)(C)C(C)(C)C | C45H84O3SSi3
